Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Hemoptysis
 
Major Surgical or Invasive Procedure:
Bronchoalveolar lavage

 
History of Present Illness:
___ male with h/o vasculitis, lupus-like syndrome, currently 
getting chemotherapy for renal involvement and noted that a few 
days after his third chemo treatment he started having daily 
coughing fits and coughing up "a shot glass full" of bright red 
blood per day,  each episode would only cough  coughing up small 
amounts, maybe a teaspoon, on high dose prednisone p/w 5d of 
hemoptysis and increasing cough. Reports daily coughing fits, 
bringing up roughly a "shot-glass full" of bright red blood per 
day. No frank CP or SOB.
. 
Pt said he has a history of a mixed connective tissue disease 
for the past that had been controlled with low-dose prednisone 
and CellCept. However, about 8 months ago, the patient 
experienced worsening of his disease, with fatigue, skin ulcers 
and alopecia, as well as an active urinary sediment and slightly 
elevated creatinine. Renal biposy was consistent with lupus 
nephritis. As a result of the findings he was started on high 
dose prednisone (60mg) and infusions of cytoxan.  Pt has had 
worsening edema, and ulcers have not been able to heal as a 
result of his treatment.  During this time, he has also been 
followed by pulmonary clinic for abnormal CT findings, which 
were felt to be consistent with vasculitis. 
.  
In the ED, initial VS:  97.9 96 122/78 16 100.   1. Left upper 
lobe cavitary nodules with bilateral patchy ground glass most
consistent with history of vasculitis. No associated 
lymphadenopathy.
Ddx includes infectious etiology and must rule out TB.  
Bilateral small pleural effusions, R>L.
.  
Currently, Pt denies fever, weight loss, night sweats, decreased 
appetite, has n/v ___ cytoxan infusions, no abd pain, change in 
bowel habits, no BRBPR, no recent travel and not previous travel 
to TB endemic regions of the world, works as a ___ 
at ___, never in prison, no IVDU, never 
homeless.  

 
Past Medical History:
1. Autoimmune syndrome/vasculitis: Characterized by fluctuating  

lymph nodes, Raynaud's phenomenon, skin ulcerations, neuropathy, 
 
and arthralgias. Followed by rheumatology and pulmonary in  
clinic.  
2. History of chronic inflammatory demyelinating polyneuropathy, 
 
status post four plasmapheresis sessions in ___.  
3. Bilateral hip avascular necrosis in the setting of steroid  
therapy, status post bilateral hip replacements.  
4. Hypertension: Diagnosed about ___ years ago.  
5. Rising creatinine concerning for RPGN, results from biopsy 
pending
 
Social History:
___
Family History:
His sister also has an undiagnosed autoimmune condition, 
currently in remission. He denies any history of diabetes, 
hypertension, or kidney disease in the family.  
 
Physical Exam:
PHYSICAL EXAM:  
Vitals - T:97.5 BP:118/78 HR:118 RR:12 02 sat:99 RA  
GENERAL: Pt lying in bed, in NAD, hair thinning, very pleasant
HEENT: global thinning of his hair, most prominent on the top, 
PERRL, EOMI, oral mucosa moist, no orophayngeal ulcers noted
NECK: supple, no LAD, no JVP, no thyromegaly
CHEST: symmetric on inspiration, harsh rhonchorous breath sounds 
in all lung field with minimal breath sounds at bases
BACK: pt has macular rash on back with 2-4cm diameter bruises on 
left
CV: NSR, nl S1S2, no S3S4, no m/r/g
ABD: +BS, soft, NT, ND, no HSM
EXT: radial pulses 2+ b/l, ___ pulses difficult to palpate 
because of severe edema in the lower extremity.  DP pulses 2+ 
b/l, pitting edema 4+ b/l to knee with multiple ulcers (3 on 
left and 2 on right).  One ulcer on right is 2cm wide and 1.5cm 
deep, clean based weeping clear liquids.
NEURO: CN II-XII intact, sensation intact throughout, motor 
strength ___ in all extremities
SKIN: as described above
PSYCH: Mood appropriate
 
Pertinent Results:
___ 02:00AM BLOOD WBC-7.0# RBC-3.17* Hgb-10.0* Hct-30.5* 
MCV-96 MCH-31.5 MCHC-32.8 RDW-17.8* Plt ___
___ 06:45AM BLOOD WBC-7.5 RBC-3.01* Hgb-9.2* Hct-28.7* 
MCV-95 MCH-30.5 MCHC-32.0 RDW-18.0* Plt ___
___ 11:45PM BLOOD WBC-10.3 RBC-3.02* Hgb-9.5* Hct-28.8* 
MCV-96 MCH-31.3 MCHC-32.8 RDW-17.9* Plt ___
___ 05:30AM BLOOD WBC-8.7 RBC-2.99* Hgb-9.4* Hct-28.7* 
MCV-96 MCH-31.3 MCHC-32.6 RDW-18.1* Plt ___
___ 05:30AM BLOOD WBC-8.0 RBC-3.02* Hgb-9.3* Hct-29.0* 
MCV-96 MCH-30.8 MCHC-32.1 RDW-18.0* Plt ___
___ 06:45AM BLOOD ___ PTT-27.0 ___
___ 02:00AM BLOOD Glucose-120* UreaN-39* Creat-1.3* Na-140 
K-4.5 Cl-109* HCO3-21* AnGap-15
___ 05:30AM BLOOD Glucose-88 UreaN-24* Creat-1.1 Na-138 
K-4.3 Cl-107 HCO3-26 AnGap-9
___ 06:45AM BLOOD Calcium-7.9* Phos-4.0 Mg-1.9
___ 05:30AM BLOOD Calcium-8.0* Phos-3.3 Mg-2.0
___ 11:45PM BLOOD C3-76* C4-9*
___ 11:45PM BLOOD CRP-19.0*
___ 06:45AM BLOOD ANTI-GBM-Test      
___ 03:20PM BLOOD ASPERGILLUS GALACTOMANNAN ANTIGEN-PND
___ 10:45AM BLOOD QUANTIFERON-TB GOLD-PND
___ 10:40AM BLOOD HISTOPLASMA ANTIGEN-PND
___ 10:40AM BLOOD ANTI-HISTONE ANTIBODY-PND
___ 10:40AM BLOOD COCCIDIOIDES ANTIBODY, 
IMMUNODIFFUSION-PND
___ 2:00 am BLOOD CULTURE      #1 RIGHT ARM. 

   Blood Culture, Routine (Preliminary):    NO GROWTH. 

___ 9:47 pm SPUTUM      Source: Induced. 

   ACID FAST SMEAR (Final ___: 
      NO ACID FAST BACILLI SEEN ON CONCENTRATED SMEAR. 

   ACID FAST CULTURE (Preliminary): 

___ 10:36 am SPUTUM      Source: Induced. 

   ACID FAST SMEAR (Final ___: 
      NO ACID FAST BACILLI SEEN ON CONCENTRATED SMEAR. 

   ACID FAST CULTURE (Preliminary): 

___ 3:54 pm BRONCHOALVEOLAR LAVAGE

   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      NO MICROORGANISMS SEEN. 

   RESPIRATORY CULTURE (Final ___:    NO GROWTH, <1000 
CFU/ml. 

   POTASSIUM HYDROXIDE PREPARATION (Final ___: 
      ___ REQUESTED BY ___ ___ # ___. 
      NO FUNGAL ELEMENTS SEEN. 

   FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED. 

   ACID FAST SMEAR (Final ___: 
      NO ACID FAST BACILLI SEEN ON CONCENTRATED SMEAR. 

   ACID FAST CULTURE (Preliminary): 

___ 9:11 am SPUTUM      Source: Induced. 
      NOCARDIA CULTURE ADDED ON PER FAX REQUEST BY 
___ FROM
      ___ 11:30. 

   ACID FAST SMEAR (Final ___: 
      NO ACID FAST BACILLI SEEN ON CONCENTRATED SMEAR. 

   ACID FAST CULTURE (Preliminary): 

   NOCARDIA CULTURE (Preliminary): 

CT CHest ___: IMPRESSION: 
1. Given the patient's history of vasculitis, new development of 
cavitary 
left upper lobe lesions, in combination with numerous scattered 
ground-glass opacities is most consistent with this diagnosis. 
However infectious etiology cannot be excluded. 
2. Small bilateral pleural effusions, right greater than left. 
3. No pulmonary embolism. 
4. Splenic, pulmonary, calcifications with pretracheal calcified 
adenopathy is consistent with prior granulomatous disease such 
as Histoplasmosis or Tuberculosis. 

CXR ___:
IMPRESSION:  
1. Progressive peripheral consolidation, both lungs; diagnostic 
considerations include chronic eosinoophilic and cryptogenic 
organizing 
pneumonia and pulmonary lymphoma.  
2. Cavitating nodule in the left lung apex could be due to 
tuberculosis, or fungal infection.  
3. Alternatively, all pulmonary findings could be due to 
necrotizing 
vasculitis, but first priority is to evaluate possible acute 
infection 

 
Brief Hospital Course:
Pt presented to the ED at the request of his nephrologist, Dr. 
___ he reported 5 days of hemoptysis.  He was found to 
have a left apical cavitary lesion seen on CXR and confirmed on 
CT and admitted to rule out TB

# Hemoptysis: Pt presented to the floor afebrile, with no 
elevated WBC count and new findings on CXR and CT scan 
suggestive of infection vs. necrotizing vasculitis.  He was 
placed on respiratory isolation and started on Zosyn and 
azithromycin to cover for community acquired PNA.  Rheum, Renal 
and Pulm were consulted.  Sputum was collected x3 via induction 
and x1 via bronchoalveolar lavage performed by pulmonology.  
Induced sputum was negative for AFB and BAL sputum was negative 
for AFB, nothing grown on gram stain, and no fungi seen on ___ 
prep.  Abx were discontinued and pt taken off respiratory 
isolation.  Given his immunosuppressed state, it was still not 
clear whether it could be definitively said whether he did or 
did not have an infection.  ID was involved and requested we 
send for tests to look for nocardia, histo, coccidiomycosis, 
aspergillosis, and more sensitive tests for TB.  Pt stabilized 
over the hospital course and was not havin episodes of 
hemoptysis at time of discharge.  He will f/u with outpt 
providers.  He was instructed to increase his prednisone dose to 
60mg on ___ if he remained asymptomatic.

# Vasculitis/lupus like syndrome:  As stated above, the etiology 
of the hemoptysis was unclear.  Patient's daily Prednisone at 
40mg was continued throughout the hospital course.  His cough 
and hemoptysis improved and at the time of discharge he was no 
longer coughing up blood.  His other comorbidities related to 
his vasculitis were stable throughout the course of his hospital 
stay.  His bactrim for infectious prophylaxis was also continued 
throughout the course of his hospital stay.

# Lower extremity edema:  The patient presented with b/l lower 
extremity edema secondary to prednisone use.  He was being 
treated with lasix and this was continued.  His edema did not 
resolve during his hospital stay, but remained stable and he was 
discharged on lasix.

# Lower extremity ulcers:  Pt presented with multiple lower 
extremity ulcers below the level of the knee b/l.  The ulcers at 
the time of admission looked clean, non-erythematous, clean, and 
all were non weeping except for one on the Right lower extremity 
and the lateral aspect of his shin.  Wound care was consulted 
and his ulcers were kept clean as per their recommendations.  
They remained clean and stable throughout the course of his 
hospital stay.  

The patient symptoms improved and many of his studies came back 
negative with many studies negative that will be followed up 
when he visits his physicians in the outpatient setting.  The 
patient was discharged with f/u with his PCP, ___, ID, 
Surgery, Heme/Onc and Dr. ___ will make an appointment 
with him so that he will follow up with Rheumatology as well.

 
Medications on Admission:
MEDICATIONS:  
ALENDRONATE - 70 mg weekly  
CLOTRIMAZOLE - 10 mg Troche  
CYCLOPHOSPHAMIDE - every ___ weeks  
FUROSEMIDE - 40 mg daily  
MVI  
NIFEDIPINE - 60 mg (ext rel) daily  
ONDANSETRON - prn  
PREDNISONE - 40 mg daily  
SULFAMETHOXAZOLE-TRIMETHOPRIM - 400 mg-80 mg three times a week  

TESTOSTERONE [TESTIM] - gel  
VARDENAFIL [LEVITRA] - PRN  
ASCORBIC ACID [VITAMIN C]  
B COMPLEX VITAMINS [B COMPLEX]  
CALCIUM  
ERGOCALCIFEROL (VITAMIN D2) [VITAMIN D]  
GLUCOSAMINE CHONDROITIN SMCONC  
LORATADINE [CLARITIN] - 10 mg at night  
OMEPRAZOLE MAGNESIUM [PRILOSEC OTC] - 20 mg daily  
VITAMIN E 
 
Discharge Medications:
1. Calcium Carbonate 500 mg Tablet, Chewable Sig: Two (2) 
Tablet, Chewable PO DAILY (Daily).  
2. Cholecalciferol (Vitamin D3) 400 unit Tablet Sig: Two (2) 
Tablet PO DAILY (Daily).  
3. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
4. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day) as needed for constipation.  
5. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for constipation.  
6. Furosemide 40 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
7. Multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
8. Nifedipine 60 mg Tablet Sustained Release Sig: One (1) Tablet 
Sustained Release PO DAILY (Daily).  
9. Prednisone 20 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily): 
Increase to 60mg on ___ if you do not have fevers 
and are feeling well.
Disp:*60 Tablet(s)* Refills:*1*
10. Sulfamethoxazole-Trimethoprim 800-160 mg Tablet Sig: One (1) 
Tablet PO 3X/WEEK (___).  
11. B-Complex with Vitamin C     Tablet Sig: One (1) Tablet PO 
DAILY (Daily).  
12. Acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO Q6H 
(every 6 hours) as needed for pain.  
13. Testosterone 1 %(50 mg/5 gram) Gel in Packet Sig: One (1)  
Transdermal DAILY (Daily).  
14. Alendronate 70 mg Tablet Sig: One (1) Tablet PO once a week. 
 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
Pulmonary Hemorrhage likely secondary to vasculitis
Secondary Diagnosis:
Autoimmune syndrome/vasculitis
Chronic inflammatory demyelinating polyneuropathy
Bilateral hip avascular necrosis s/p b/l hip replacement
Hypertension 
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You are being discharged from the hospital after 4 days.  You 
were initially admitted after you came to the Emergency 
department reporting coughing up blood and you were found to 
have a cavitary lesion in the apex of your left lung on imaging. 
 You were put on respiratory isolation until we ruled out that 
you had TB.  You were also started on antibiotics Zosyn and 
azithromycin until we could prove you did not have a PNA.  After 
three sputum samples and a bronchoalveolar lavage we did not 
find any evidence of infection and you were taken off 
respiratory isolation.  However, since you are immunosuppressed 
from all your medications we were worried that there may still 
be a chance that the blood and findings on imaging were still 
related to an infectious process.  ID came and saw you and we 
sent out labs to ensure that there is no infectious process 
causing the cavitary lesion and that it is more related to your 
underlying vasculitis.  we also placed a PPD that you must go to 
your PCP office ot have read on ___.  Also we are going to 
increase your steroids to 60mg and will have you follow up with 
your outside physicians.

If you do not have any fevers over the weekend and are feeling 
well, please increase your prednisone dose to 60mg daily on 
___.  

We did not change any of your medications.  Please continue to 
take them as scheduled:
PREDNISONE - 40mg daily 
ALENDRONATE - 70 mg weekly  
CLOTRIMAZOLE - 10 mg Troche  
CYCLOPHOSPHAMIDE - every ___ weeks  
FUROSEMIDE - 40 mg daily  
MVI  
NIFEDIPINE - 60 mg (ext rel) daily  
ONDANSETRON - prn  
SULFAMETHOXAZOLE-TRIMETHOPRIM - 400 mg-80 mg three times a week  

TESTOSTERONE [TESTIM] - gel  
VARDENAFIL [LEVITRA] - PRN  
ASCORBIC ACID [VITAMIN C]  
B COMPLEX VITAMINS [B COMPLEX]  
CALCIUM  
ERGOCALCIFEROL (VITAMIN D2) [VITAMIN D]  
GLUCOSAMINE CHONDROITIN SMCONC  
LORATADINE [CLARITIN] - 10 mg at night  
OMEPRAZOLE MAGNESIUM [PRILOSEC OTC] - 20 mg daily  
VITAMIN E  

 
Followup Instructions:
___